data/oMe_Silver.jsonl
{"reaction_id": "NR-237_1-S(=O)(=O)c1ccc(C)cc1_2-CCCC_3-c1ccc(C)cc1_4-c1ccccc1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["S(=O)(=O)c1ccc(C)cc1N=[N+]=[N-]","P(CCCC)(c1ccc(C)cc1)(c1ccccc1)"],"products_smiles": ["S(=O)(=O)c1ccc(C)cc1N","O=P(CCCC)(c1ccc(C)cc1)(c1ccccc1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(=O)(=O)c1ccc(C)cc1N=[N+]=N[P+](CCCC)(c1ccc(C)cc1)(c1ccccc1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(=O)(=O)c1ccc(C)cc1N1N=NP1(CCCC)(c1ccc(C)cc1)(c1ccccc1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "S(=O)(=O)c1ccc(C)cc1N=P(CCCC)(c1ccc(C)cc1)(c1ccccc1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(=O)(=O)c1ccc(C)cc1[NH+]=P(CCCC)(c1ccc(C)cc1)(c1ccccc1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(=O)(=O)c1ccc(C)cc1N[P](O)(CCCC)(c1ccc(C)cc1)(c1ccccc1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "S(=O)(=O)c1ccc(C)cc1N","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
{"reaction_id": "NR-217_1-C_2-c1ccc(N(=O)=O)cc1","level": "easy","name": "Acidic elimination","reactants_smiles": ["OC(C)C(c1ccc(N(=O)=O)cc1)[Si](C)(C)C"],"products_smiles": ["C(C)=C(c1ccc(N(=O)=O)cc1)"],"conditions": "Acidic conditions","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(C)C(c1ccc(N(=O)=O)cc1)[Si](C)(C)C","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen increases its positive charge, converting OH into the better leaving group H2O under acidic conditions."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)=C(c1ccc(N(=O)=O)cc1)","step_weight": 0,"rationale": "Loss of water is favored due to its stability as a leaving group; the adjacent silyl group stabilizes developing carbocation character, enabling alkene formation."}],"description": "Under acidic conditions, the hydroxyl group is protonated to form a better leaving group, facilitating elimination. The bulky trialkylsilyl group on the adjacent carbon stabilizes carbocation character and promotes loss of water to yield the alkene."}
